US05763444
Preparation of 2-bromo-5-chloro-3-methoxypyridine
To a DMF (60 mL) solution containing 2-bromo-5-chloro-3-hydroxypyridine (19.95 g, 95.7 mmol) at 0° C. was added NaH (2.53 g, 105.3 mmol) portion wise. After the cessation of H2 evolution, CH3I (14.26 g, 100.5 mmol) was added dropwise and the reaction stirred ~16 h. Water (1.9 mL) was added and the solvent removed under reduced pressure. The concentrate was triturated with 5 portions of CH2Cl2. The combined organic phases were washed with sat. NaCl solution, dried with K2CO3, filtered, and concentrated in vacuo. Silica gel chromatography (95:5 Hexane:EtOAc) of the concentrate afforded the title compound.

reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
reactant | 2-bromo-5-chloro-3-hydroxypyridine | 95.7 mmol, 19.95 g | BrC1=NC=C(C=C1O)Cl | C5H3BrClNO
reactant | NaH | 105.3 mmol, 2.53 g | [H-].[Na+]
reactant | CH3I | 100.5 mmol, 14.26 g | CI | CH3I
solvent | Water | 1.9 mL | O | H2O
product | 2-bromo-5-chloro-3-methoxypyridine | BrC1=NC=C(C=C1OC)Cl | C6H5BrClNO
